US07572811B2
To a solution of 4-[4-(4-Bromo-3-methyl-phenoxymethyl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester (409 mg, 0.8884 mmol) in dry THF (5 mL) cooled to −78° C. is added n-BuLi (1.6 M in hexanes, 1.1 eq., 0.9772 mmol, 0.61 mL). The resulting mixture is stirred at −78° C. for 30 minutes and a solution of tetrahydro-thiopyran-4-one (1.1 eq., 0.9772 mmol, 114 mg) in dry THF (0.5 mL) is then added dropwise. After 30 minutes, the reaction mixture is quenched with saturated aqueous NH4Cl and warmed to room temperature. The reaction mixture is diluted with EtOAc and washed sequentially with H2O and saturated aqueous NaCl. The organic solution is dried over Na2SO4. After concentration, the residue is partially purified by silica gel chromatography (3:1 hexanes/EtOAc) to give crude 4-{4-[4-(4-Hydroxy-tetrahydro-thiopyran-4-yl)-3-methyl-phenoxymethyl]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 4-[4-(4-Bromo-3-methyl-phenoxymethyl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.8884 mmol, 409 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)COC1=CC(=C(C=C1)Br)C | C24H30BrNO3
reactant | n-BuLi | 0.9772 mmol, 1.6 M, 0.61 mL, 1.1 eq. | [Li]CCCC
reactant | tetrahydro-thiopyran-4-one | 0.9772 mmol, 114 mg, 1.1 eq. | S1CCC(CC1)=O | C5H8OS
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 4-{4-[4-(4-Hydroxy-tetrahydro-thiopyran-4-yl)-3-methyl-phenoxymethyl]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)COC1=CC(=C(C=C1)C1(CCSCC1)O)C | C29H39NO4S
